US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-[4-phenylmethanesulfonylpiperazin-1-yl]-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-piperazin-1-yl-thiazolo[5,4-d]pyrimidine (80 mg, 0.22 mmol) in 1,4-dioxane (4 ml) was added diisopropylethylamine (0.49 mmol, 81 μL) and phenylmethanesulfonyl chloride (0.25 mmol). The reaction was stirred at 90° C. for 16 hours after which the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 1% CH3OH in CH2Cl2), yielding the pure title compound (13 mg) which was characterized by its mass spectrum: MS m/z (%): 513 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-piperazin-1-yl-thiazolo[5,4-d]pyrimidine | 0.22 mmol, 80 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCNCC2 | C17H19FN6S
reactant | diisopropylethylamine | 0.49 mmol, 81 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylmethanesulfonyl chloride | 0.25 mmol | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-[4-phenylmethanesulfonylpiperazin-1-yl]-thiazolo[5,4-d]pyrimidine | 13 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCN(CC2)S(=O)(=O)CC2=CC=CC=C2 | C24H25FN6O2S2
